US07977344B2
8-Bromo-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine
2-[(Tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (1.7202 g) was dissolved in chloroform (15 mL) and cooled to ˜1° C. before N-bromosuccinimide (1.056 g) was added keeping the reaction temperature below 2° C. The reaction mixture was then stirred at ˜1° C. for 30 minutes before allowing to warm to room temperature were upon the reaction mixture was stirred for 3 hours. The reaction mixture was then stood overnight at room temperature before being partitioned between water (50 mL) and the organic phase separated using a hydrophobic frit. The organic phase was evaporated under reduced pressure to give a brown gum which was purified using silica chromatography (ISCO) eluting with 0-100% ethyl acetate: cyclohexane. This gave the title compound as a white foam solid (1.3748 g).

reactant | 2-[(Tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 1.7202 g | O1C(CCC1)COC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H21N5O3
reactant | N-bromosuccinimide | 1.056 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-2-[(tetrahydro-2-furanylmethyl)oxy]-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine | BrC=1N(C2=NC(=NC(=C2N1)N)OCC1OCCC1)C1OCCCC1 | C15H20BrN5O3
